US08404859B2
A solution of (S)-3-tert-Butoxycarbonylamino-2-[(4-methyl-2-{2-[1-(tetrahydro-pyran-2-yl)-1H-indazol-4-yl]-acetylamino}-thiazole-5-carbonyl)-amino]-propionic acid methyl ester (96.1 mg, 0.160 mmol) in 4M HCl in dioxane (4 mL, 16 mmol) was stirred at room temp for 40 min. Methanol (0.5 mL) was added to the gummy precipitate and the resulting solution was stirred at room temp for 5½ h. The reaction solution was concentrated under reduced pressure, added ether (2×) with concentrating under reduced pressure. To the resulting white solid dissolved in anhydrous DMF (3 mL) was added HBTU (91 mg, 0.240 mmol), HOBt (32 mg, 0.237 mmol), 2-thiophenecarboxylic acid (26 mg, 0.203 mmol) and triethylamine (0.12 mL, 0.861 mmol). The solution was allowed to stir at 25° C. for 1 h and concentrated under reduced pressure to remove most of the DMF. Ethyl acetate (80 mL) was added, washed with 3/1 water/brine (20 mL), aqueous 1N HCl (20 mL), brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (50% to 100% EtOAc in hexanes) to give (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester (36.1 mg, 42.9%) as a white solid. MS m/e 527.6 (M+H+).

reactant | (S)-3-tert-Butoxycarbonylamino-2-[(4-methyl-2-{2-[1-(tetrahydro-pyran-2-yl)-1H-indazol-4-yl]-acetylamino}-thiazole-5-carbonyl)-amino]-propionic acid methyl ester | 0.160 mmol, 96.1 mg | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C1=C(N=C(S1)NC(CC1=C2C=NN(C2=CC=C1)C1OCCCC1)=O)C)=O | C28H36N6O7S
reactant | dioxane | 16 mmol, 4 mL | O1CCOCC1 | C4H8O2
reactant | HBTU | 0.240 mmol, 91 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.237 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-thiophenecarboxylic acid | 0.203 mmol, 26 mg | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | triethylamine | 0.861 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | HCl | 4M | Cl | ClH
solvent | Methanol | 0.5 mL | CO | CH4O
product | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 36.1 mg, 42.9% | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C1=C(N=C(S1)NC(CC1=C2C=NNC2=CC=C1)=O)C)=O | C23H22N6O5S2
